US06710056B2
3-[(4-Cyanophenoxy)methyl]benzoic acid:
0.46 g of methyl 3-[(4-cyanophenoxy)methyl]benzoate and 175 mg of lithium hydroxide monohydrate were stirred in 7 ml of a solvent mixture of tetrahydrofuran, methanol and water (2:1:2) for 1 hour to hydrolyze the ester. The reaction mixture was added to 1 M of hydrochloric acid. The precipitate thus formed was taken by the filtration and then dried to obtain the title compound in the form of white crystals.

reactant | methyl 3-[(4-cyanophenoxy)methyl]benzoate | 0.46 g | C(#N)C1=CC=C(OCC=2C=C(C(=O)OC)C=CC2)C=C1 | C16H13NO3
reactant | lithium hydroxide monohydrate | 175 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-[(4-Cyanophenoxy)methyl]benzoic acid | C(#N)C1=CC=C(OCC=2C=C(C(=O)O)C=CC2)C=C1 | C15H11NO3
